US08283354B2
(R)-Tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (116 mg, 0.251 mmol) was suspended in 8 mL anhydrous CH2Cl2 and gently heated until an homogenous solution was formed. After the reaction was cooled to room temperature, a 2.0 M solution of HCl in Et2O (0.126 mL, 0.251 mmol) was added in one portion. The reaction mixture was diluted with 25 mL Et2O, and the product precipitated from solution. The reaction was stirred for an additional 30 minutes before the solid was filtered and dried to obtain (R)-tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride as a light yellow solid (99 mg, 70%). LC/MS: m/z 463.5 (M+H)+ at 2.37 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.22 (d, J=7.7 Hz, 1H), 7.95 (d, J=8.5 Hz, 1H), 7.75 (s, 1H), 7.42-7.49 (m, 3H), 6.97-7.08 (m, 2H), 5.08 (dd, J=6.1, 4.6 Hz, 1H), 4.52-4.54 (m, 2H), 3.66-3.78 (m, 3H), 3.58-3.60 (m, 1H), 3.48 (t, J=10.7 Hz, 1H), 3.23 (t, J=11.5 Hz, 1H), 3.00 (t, J=6.3 Hz, 2H), 2.53 (s, 3H), 2.05-2.14 (m, 1H), 1.80-1.91 (m, 4H), 1.72 (d, J=9.0 Hz, 1H), 1.34-1.43 (m, 1H).

reactant | (R)-Tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 0.251 mmol, 116 mg | O1C[C@@H](CC1)OC(NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H30N4O4
reactant | HCl | Cl | ClH
reactant | Et2O | 25 mL | CCOCC | C4H10O
reactant | Et2O | 0.251 mmol, 0.126 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (R)-tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride | 99 mg, 70% | Cl.O1C[C@@H](CC1)N(C(O)=O)C[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | InChI=1S/C26H30N4O4.ClH/c1-17-8-9-20-22(13-17)27-24(21-6-2-3-7-23(21)31)28-25(20)29-11-4-5-18(14-29)15-30(26(32)33)19-10-12-34-16-19;/h2-3,6-9,13,18-19,31H,4-5,10-12,14-16H2,1H3,(H,32,33);1H/t18-,19+;/m0./s1
